US07105513B2
a) 7-Benzylidene-6,7-dihydro-5H-[1]pyrindine
15 g (0.125 mol) of 6,7-dihydro-5H-[1]pyrindine, 20.1 g (0.19 mol) of freshly destilled benzaldehyde and 24.5 g (0.24 mol) of acetic acid anhydride were heated under reflux for 24 h. The reaction mixture was evaporated, the residual oil dissolved in methylene chloride, the solution extracted with 1N NaOH solution, and the organic phase dried and evaporated. The residue was destilled under reduced pressure to give 19.3 g (75%) of the title compound.

reactant | 6,7-dihydro-5H-[1]pyrindine | 0.125 mol, 15 g | N1=CC=CC=2CCCC12 | C8H9N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid anhydride | 0.24 mol, 24.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | 7-Benzylidene-6,7-dihydro-5H-[1]pyrindine | 19.3 g, 75% | C(C1=CC=CC=C1)=C1CCC=2C=CC=NC12 | C15H13N
